US07297816B2
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-((2S,1R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid was coupled with (1S,2R)-(+)-norephedrine as in EXAMPLE 1, Part C. HPLC: RT=10.13 min. MS (ESI−): mass calcd. for C22H19ClN4O4S2, 502.05; m/z found, 501 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.69 (s, 1H), 8.37 (dd, J=7.0, 1.0, 1H), 8.22 (dd, J=8.8, 1.0, 1H), 7.73 (d, J=2.0, 1H), 7.72 (dd, J=8.8, 7.0, 1H), 7.41-7.29 (m, 5H), 7.24 (d, J=8.4, 1H), 6.93 (dd, J=8.4, 2.0, 1H), 6.28 (br d, J=8.3, 1H), 4.98 (d, J=3.0, 1H), 4.45 (ddq, J=8.3, 6.9, 3.0, 1H), 2.60 (br s, 1H), 1.05 (d, J=6.9, 3H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chlorobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | (1S,2R)-(+)-norephedrine | CC(C(C1=CC=CC=C1)O)N | C9H13NO
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-((2S,1R)-2-hydroxy-1-methyl-2-phenyl-ethyl)-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H]([C@H](C1=CC=CC=C1)O)C)C=CC(=C2)Cl | C22H19ClN4O4S2
